US04335127
A mixture of 10 parts of N-[2-(aminocarbonyl)phenyl]-4-(4-fluorobenzoyl)-1-piperidinebutanamide, 60 parts of sodium hydroxide solution 2 N and 80 parts of ethanol is stirred and refluxed for 1.50 hours. The reaction mixture is evaporated and water is added to the residue. The oily product is dissolved in trichloromethane. The solution is dried, filtered and evaporated. The residue is crystallized twice from 4-methyl-2-pentanone. The product is filtered off and dried, yielding 1 part (10.5%) of 2-[3-[4-(4-fluorobenzoyl)-1-piperidinyl]propyl]-4(3H)-quinazolinone; mp. 184° C.

reactant | N-[2-(aminocarbonyl)phenyl]-4-(4-fluorobenzoyl)-1-piperidinebutanamide | NC(=O)C1=C(C=CC=C1)NC(CCCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)=O | C23H26FN3O3
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-[3-[4-(4-fluorobenzoyl)-1-piperidinyl]propyl]-4(3H)-quinazolinone | 10.5% | FC1=CC=C(C(=O)C2CCN(CC2)CCCC2=NC3=CC=CC=C3C(N2)=O)C=C1 | C23H24FN3O2
